* MODELLING FOR STW45NM60
 
.SUBCKT STW45NM60 1 2 3
LG 2 4  7.5n
LS 12 3 7.5n
LD 6 1  4.5n
RG 4 5  1.416
RS 9 12 0.512E-02
RD 7 6  0.767E-01
RJ 8 7  0.501E-02
CGS 5 9   0.421E-08
CGD 7 10  0.345E-08
CK  11 7  0.651E-10
DGD 11 7 DGD
DBS 12 6 DBS
DBD  9 7 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  8 13 POLY(2) 6 8 6 12 0 0 0 0  0.904E-01
G1  0 100 7 5 1u
D1  100 101  DID
D2  102 100  DID
R1  101 0  1MEG
R2  102 0  1MEG
.ENDS STW45NM60
 
.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 4.983
+ PHI   = 0.805
+ IS    = 0.1P
+ JS    = 0
+ THETA = 0.266
+ KP    = 43.073
 
.MODEL DGD D
+ IS    = 0.1P
+ CJO   = 0.145E-10
+ VJ    = 0.758
+ M     = 0.344
.MODEL DBD D
+ IS    = 0.1P
+ CJO   = 0.161E-10
+ VJ    = 0.767
+ M     = 0.344
.MODEL DBS D
+ IS    = 0.1E-12
+ BV    = 644
+ N     = 1
+ TT    = 0.659E-06
+ RS    = 0.553E-02
.MODEL DID D
+ IS    = 2E-12
+ RS    = 0
+ BV    = 654
 
* END OF MODELLING


